US05107026
Preparation of 3-[[3-(Trifluoromethoxy)phenyl]ethynyl]aniline
A multinecked flask as described in Example 1 was charged with 5.0 g (0.021 mol) of m-bromophenyl trifluoromethyl ether, 50 ml of dried, degassed triethylamine, 2.43 g (0.212 mol) of 3-aminophenylacetylene, 0.048 g (0.68 mmol) of bis(triphenylphosphine) palladium II chloride, 0.148 g (0.564 mmol) of triphenylphosphine, and 0.03 g (0.157 mmol) of cuprous iodide. The reaction mixture was heated at 65° C. for 20 hours at which point gas chromotography showed the reaction to be complete. The product mixture was cooled to room temperature and diluted with 75 ml of ether. Filtration of the insoluble triethylamine hydrobromide salt by-product followed by concentration of the filtrate gave the crude product as a viscous orange-colored liquid. Short path distillation of the crude product under reduced pressure gave 5.1 g (0.018 mol, 86% yield) of the purified product as a colorless liquid.

reactant | m-bromophenyl trifluoromethyl ether | 0.021 mol, 5.0 g | FC(F)(F)OC1=CC(=CC=C1)Br | C7H4BrF3O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-aminophenylacetylene | 0.212 mol, 2.43 g | NC=1C=C(C=CC1)C#C | C8H7N
solvent | ether | 75 ml | CCOCC | C4H10O
catalyst | bis(triphenylphosphine) palladium | 0.68 mmol, 0.048 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | triphenylphosphine | 0.564 mmol, 0.148 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-[[3-(Trifluoromethoxy)phenyl]ethynyl]aniline | 0.018 mol, 5.1 g, 86% yield | FC(OC=1C=C(C=CC1)C#CC=1C=C(N)C=CC1)(F)F | C15H10F3NO
